US07208494B2
a) (4R,9aR)-6-Cyclopropylmethoxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2,7-dicarboxylic acid 2-tert-butyl ester 7-methyl ester
A mixture of 1.5 g (3.31 mmol) (4R,9aR)-7-bromo-6-cyclopropylmethoxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester, 0.11 g (0.50 mmol) palladium(II) acetate, 0.68 g (1.66 mmol) 1,3-bis(diphenylphosphino)propane and 1.4 mL (1.0 g, 10.0 mmol) triethylamine in 15 mL MeOH was stirred for 48 h at 100° C. under a carbon monoxide atmosphere (50 bar). The reaction mixture was cooled to room temperature, filtered and partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over magnesium sulphate, filtered and evaporated. The residue was purified by column chromatography over silica gel (0.030–0.063 mm) with ethyl acetate:n-hexane (1:3) as eluant to give the compound as a yellow oil (87%).

reactant | (4R,9aR)-7-bromo-6-cyclopropylmethoxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 3.31 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)COCC1CC1)Br | C21H30BrN3O3
reactant | 1,3-bis(diphenylphosphino)propane | 1.66 mmol, 0.68 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | triethylamine | 10.0 mmol, 1.4 mL, 1.0 g | C(C)N(CC)CC | C6H15N
solvent | MeOH | 15 mL | CO | CH4O
catalyst | palladium(II) acetate | 0.50 mmol, 0.11 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (4R,9aR)-6-Cyclopropylmethoxymethyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2,7-dicarboxylic acid 2-tert-butyl ester 7-methyl ester | 87% | COC(=O)C1=C(N=C2N3[C@@H](CN(C[C@H]3CC2=C1)C(=O)OC(C)(C)C)C)COCC1CC1 | C23H33N3O5
